US08114991B2
A mixture of 4-aminochromane hydrochloride (27.8 g, 0.15 mol) and aqueous sodium hydroxide (2N) was extracted with ethyl acetate and the organic layer dried (sodium sulfate) and evaporated to give racemic 4-aminochromane (14.2 g, 0.095 mol). To this was added methyl 2-methoxyacetate (10.94 g, 0.105 mol) and 2.5 g Novozym 435 (Aldrich Corp.) in tert-butyl methyl ether, and the mixture heated at reflux for 2 hours. A further addition of Novozym 435 (0.5 g) was made and heating continued until the reaction was complete as judged by hplc. Dichloromethane was added, the biocatalyst filtered off and the organic layer dried (sodium sulfate) and evaporated. The residue was dissolved in the minimum of dichloromethane, and ethanolic hydrochloric acid solution (8N) was added to give (4S)4-aminochromane hydrochloride which was filtered off, and the filtrate evaporated to give N-[(4R)4-chromanyl]-2-methoxyacetamide (8.2 g), mp. 109-112° C.

reactant | 4-aminochromane hydrochloride | 0.15 mol, 27.8 g | Cl.NC1CCOC2=CC=CC=C12
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | racemic 4-aminochromane | 0.095 mol, 14.2 g | NC1CCOC2=CC=CC=C12 | C9H11NO
